US09416132B2
To a solution of 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine (300 mg, 1.14 mmol) and trans-4-aminocyclohexanol hydrogenchloride (327 mg, 2.84 mmol) in NMP (2.0 mL) was added NaHCO3 (286 mg, 3.41 mmol), the mixture was stirred at 180° C. for 45 mins under microwave irridation. The mixture was purified by flash chromatograph to give 4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanol (120 mg, 0.350 mmol, 31%) as a pale yellow solid.

reactant | 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine | 1.14 mmol, 300 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)Cl | C12H7Cl2N3
reactant | trans-4-aminocyclohexanol hydrogenchloride | 2.84 mmol, 327 mg | Cl.N[C@@H]1CC[C@H](CC1)O
reactant | NaHCO3 | 3.41 mmol, 286 mg | C(=O)(O)[O-].[Na+]
solvent | NMP | 2.0 mL | CN1CCCC1=O | C5H9NO
product | 4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanol | 0.350 mmol, 120 mg, 31% | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)NC2CCC(CC2)O | C18H19ClN4O
